US06147088
Step 12.1F 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-hydroxy-propyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-{2-[6-allyl-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (400 mg in 7.0 mL of dry tetrahydrofuran) at 0° C. was added 2.18 mL of a 1M solution of borane in tetrahydrofuran dropwise over 10 minutes. After 3 hours, the reaction was treated sequentially with sodium hydroxide (0.84 mL of a 3M solution) and hydrogen peroxide (0.29 mL of a 30% solution) and the mixture allowed to warm to room temperature. After 2 hours the mixture was extracted with ethyl acetate, washed with brine and dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (hexane:ethyl acetate, 8:2; then 7:3; then 3:2; then 1:1) gave the title compound (253 mg).

reactant | 2-{2-[6-allyl-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 7.0 mL, 400 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)CC=C)Cl)=O)C1=CC(=CC(=C1)C)C | C32H39ClN2O4
reactant | borane | B | BH3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-hydroxy-propyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 253 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)CCCO)Cl)=O)C1=CC(=CC(=C1)C)C | C32H41ClN2O5
